US05153316
N-(4-chlorophenyl)-N-cyanomethylcarbamoyl chloride, prepared as described in Example 53, (2.7 g, 0.012 mol) was dissolved in 10 mL of dimethylformamide and added dropwise to a cold solution (0° C.) of 2-pyrrolidinone (1.0 g, 0.012 mol) and sodium hydride (0.96 g, 0.024 mol) in 20 mL of DMF. The solution was allowed to warm to ambient temperature over two hours, then it was poured onto ice water and extracted with ethyl acetate. The organic layer was washed with saturated brine solution, dried over magnesium sulfate, and concentrated to yield an oil. Elution of this oil through a silica gel column using 1:2 ethyl acetate:hexane furnished 0.4 g of 2-(4-chlorophenyl)-2,3,6,7-tetrahydro-3-oxo-5H-pyrrolo-[l,2-c]imidazol-1-carbonitrile, as a solid (m.p. 154°-6° C.).

reactant | N-(4-chlorophenyl)-N-cyanomethylcarbamoyl chloride | ClC1=CC=C(C=C1)N(C(=O)Cl)CC#N | C9H6Cl2N2O
reactant | 2-pyrrolidinone | 0.012 mol, 1.0 g | N1C(CCC1)=O | C4H7NO
reactant | sodium hydride | 0.024 mol, 0.96 g | [H-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4-chlorophenyl)-2,3,6,7-tetrahydro-3-oxo-5H-pyrrolo-[l,2-c]imidazol-1-carbonitrile | 0.4 g | ClC1=CC=C(C=C1)N1C(N2C(=C1C#N)CCC2)=O | C13H10ClN3O
